US05049675
Preparation of Methyl 2-(4-((3-Fluoro-5-trifluoromethyl-2-pyridinyl)oxy)-phenoxy)propionate
A 22 liter (L), 3-necked round-bottom flask with a bottom outlet was fitted with a mechanical stirrer, a condenser topped with a nitrogen inlet, and an addition funnel. Through the funnel, 6.546 kilograms (kg) (33.13 moles) of molten methyl 2-(4-hydroxyphenoxy)propionate, 6.571 kg (47.55 moles) of anhydrous K2CO3 and 319 g (0.99 moles) of tetra-n-butylammonium bromide were added to the reactor. Under constant agitation, the slurry was heated to 66° C. with a steam-water mixture controlled by a microprocessor and 6.026 kg (32.93 moles) of 2,3-difluoro-5-trifluoromethyl-pyridine was added over 15 min. The reaction mixture was heated for 13 hours (hr) at 70°-75° C. after which the product was washed 5 times using a total 37 L of hot water. The washed product was stripped of residual water using a rotary evaporator at 75° C. at a reduced pressure of 30 millimeters (mm) of mercury. A total 10.7 kg of product was collected having a purity of 97.9 percent.

reactant | methyl 2-(4-hydroxyphenoxy)propionate | OC1=CC=C(OC(C(=O)OC)C)C=C1 | C10H12O4
reactant | K2CO3 | 47.55 moles, 6.571 kg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,3-difluoro-5-trifluoromethyl-pyridine | 32.93 moles, 6.026 kg | FC1=NC=C(C=C1F)C(F)(F)F | C6H2F5N
catalyst | tetra-n-butylammonium bromide | 0.99 moles, 319 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | Methyl 2-(4-((3-Fluoro-5-trifluoromethyl-2-pyridinyl)oxy)-phenoxy)propionate | FC=1C(=NC=C(C1)C(F)(F)F)OC1=CC=C(OC(C(=O)OC)C)C=C1 | C16H13F4NO4
